US05866568
4-Bromobenzonitrile (10 g) was dissolved in anhydrous diethyl ether (125 ml) and 2M isopropyl magnesium chloride in diethyl ether (30.24 ml) was added dropwise with stirring. The resulting solution was then heated to reflux for 18 hours. The reaction mixture was allowed to cool to ambient temperature and a saturated aqueous solution of ammonium chloride was added slowly with stirring. Stirring was continued for a further 2 hours. The organic phase was separated and the aqueous layer was extracted with diethyl ether (3×100 ml). The combined organic phases were washed with water (50 ml), then brine (50 ml), dried (MgSO4) and evaporated to give 1-bromo-4-(2-methylpropanoyl)benzene (11.6 g); 1H NMR (CDCl3): 1.15 (d, 6 H), 3.1 (septet, 1 H), 7.5-7.6 (m, 4 H); mass spectrum (CI+) 226 (M.)+.

reactant | 4-Bromobenzonitrile | 10 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | isopropyl magnesium chloride | 2M | C(C)(C)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | 125 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 30.24 ml | C(C)OCC | C4H10O
product | 1-bromo-4-(2-methylpropanoyl)benzene | 11.6 g | BrC1=CC=C(C=C1)C(C(C)C)=O | C10H11BrO
